US07994196B2
Isonipecotic acid amide (Tokyo Chemical Industry CO., LTD., 2.1 g) was dissolved in methylene chloride (50 ml). The mixture was cooled to 0° C., pyridine (4 ml) and trifluoroacetic acid anhydride (5.6 ml) were added, and the mixture was stirred for 8 hr. After completion of the reaction, a saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with methylene chloride. The organic layer was washed with water, and dried. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in diethyl ether (34 ml) and cooled to 0° C. A 2N aqueous sodium hydroxide solution (34 ml) was added di-tert-Butyl bicarbonate (7.2 g) dissolved in diethyl ether (10 ml) was added, and the mixture was stirred at room temperature for 12 hr. After completion of the reaction, the reaction mixture was partitioned by adding water. The organic layer was washed with water, and dried. The solvent was evaporated under reduced pressure to give 4-cyanopiperidine-1-carboxylic acid tert-butyl ester (3.1 g, yield 88%).

reactant | Isonipecotic acid amide | 2.1 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid anhydride | 5.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-cyanopiperidine-1-carboxylic acid tert-butyl ester | 3.1 g, yield 88% | C(C)(C)(C)OC(=O)N1CCC(CC1)C#N | C11H18N2O2
